US07560567B2
Preparation of N-{2-(acetylamino)-2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]ethy}-2-(trifluoromethyl)benzamide (compound 48)
108 mg of N-{2-amino-1-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]ethyl}acetamide trifluoroacetate (0.0003 mol), 76 mg of 2-(trifluoromethyl)benzoic acid (0.0003 mol)), 83 mg of 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate (0.0003 mol) and 41 μL of triethylamine (0.0003 mol) are stirred in 3 mL of ethanol at room temperature overnight.

reactant | N-{2-amino-1-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]ethyl}acetamide trifluoroacetate | 0.0003 mol, 108 mg | FC(C(=O)O)(F)F.NCC(C1=NC=C(C=C1Cl)C(F)(F)F)NC(C)=O
reactant | 2-(trifluoromethyl)benzoic acid | 0.0003 mol, 76 mg | FC(C1=C(C(=O)O)C=CC=C1)(F)F | C8H5F3O2
reactant | 4-(4,6-dimethoxy[1.3.5]triazin-2-yl)-4-methylmorpholinium chloride hydrate | 0.0003 mol, 83 mg | O.[Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | triethylamine | 0.0003 mol, 41 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-{2-(acetylamino)-2-[3-chloro-5-(trifluoromethyl)-2-pyridinyl]ethy}-2-(trifluoromethyl)benzamide | C(C)(=O)NC(CNC(C1=C(C=CC=C1)C(F)(F)F)=O)C1=NC=C(C=C1Cl)C(F)(F)F | C18H14ClF6N3O2
